US08809352B2
tert-Butyl 4-hydroxy-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate (300 mg, 1.264 mmol) and (1H-benzo[d][1,2,3]triazol-1-yloxy)tris(dimethylamino)-0phosphonium hexafluorophosphate(V) (671 mg, 1.517 mmol) were stirred in acetonitrile (10 mL). To the slurry was added 2,3,4,6,7,8,9,10-octahydropyrimido-[1,2-a]azepine (289 mg, 1.897 mmol). The reaction mixture was stirred 1.5 hours. The solvents were removed in vacuo to afford tert-butyl 4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate which was carried on to the next step without further purification.

reactant | tert-Butyl 4-hydroxy-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | 1.264 mmol, 300 mg | OC=1C2=C(N=CN1)CN(C2)C(=O)OC(C)(C)C | C11H15N3O3
reactant | 2,3,4,6,7,8,9,10-octahydropyrimido-[1,2-a]azepine | 1.897 mmol, 289 mg | N=1CCCN2C1CCCCC2 | C9H16N2
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 4-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5H-pyrrolo[3,4-d]pyrimidine-6(7H)-carboxylate | N1(N=NC2=C1C=CC=C2)OC=2C1=C(N=CN2)CN(C1)C(=O)OC(C)(C)C | C17H18N6O3
